US07582644B2
i) Sodium 2-(dimethylamino)ethanesulfonate
Sodium ethylenesulfonate (18.2 ml, 25% aqueous solution w/w) and dimethylamine (4.43 ml, 40% aqueous solution w/w) were heated in a sealed finger tube at 105° C. for 48 h before concentrating in vacuo to yield the subtitle compound as a white solid. Yield: 9.80 g.

reactant | Sodium ethylenesulfonate | 18.2 ml | C=CS(=O)(=O)[O-].[Na+]
reactant | dimethylamine | 4.43 ml | CNC | C2H7N
product | Sodium 2-(dimethylamino)ethanesulfonate | CN(CCS(=O)(=O)[O-])C.[Na+] | InChI=1S/C4H11NO3S.Na/c1-5(2)3-4-9(6,7)8;/h3-4H2,1-2H3,(H,6,7,8);/q;+1/p-1
